US09216993B2
To a stirred solution of 174 mg of tert-butyl 2-cyano-6-methoxy-5-methyl-1H-indole-1-carboxylate (0.61 mmol) in carbon tetrachloride (2.5 mL) was added 108 mg of N-bromosuccinimide (0.61 mmol) and 11 mg of AIBN (0.065 mmol). The mixture was refluxed for 1 h, then cooled and concentrated and filtered through short silica gel plug using hexane-ethyl acetate 10:1 to give 223 mg of crude tert-butyl 5-(bromomethyl)-2-cyano-6-methoxy-1H-indole-1-carboxylate that was used in the next step without further purification.

reactant | tert-butyl 2-cyano-6-methoxy-5-methyl-1H-indole-1-carboxylate | 0.61 mmol, 174 mg | C(#N)C=1N(C2=CC(=C(C=C2C1)C)OC)C(=O)OC(C)(C)C | C16H18N2O3
reactant | N-bromosuccinimide | 0.61 mmol, 108 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | AIBN | 0.065 mmol, 11 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | carbon tetrachloride | 2.5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | tert-butyl 5-(bromomethyl)-2-cyano-6-methoxy-1H-indole-1-carboxylate | 223 mg | BrCC=1C=C2C=C(N(C2=CC1OC)C(=O)OC(C)(C)C)C#N | C16H17BrN2O3
